US06562828B1
4-Hydroxymethyl-1-(quinolin-4-yl)piperidine
To a solution of lithium aluminum hydride (267 mg) in tetrahydrofuran (10 ml) was added dropwise 1-(quinolin4-yl)piperidine-4-carboxylic acid ethyl ester (1 g) in tetrahydrofuran (10 ml) under nitrogen atmosphere and with ice-cooling, and the mixture was stirred at the same temperature for 2 hours. After completion of the reaction, aqueous sodium sulfate was added with ice-cooling and the mixture was filtered through celite. The solvent was evaporated and the obtained solid was washed with diisopropyl ether and dried under reduced pressure to give the title compound (750 mg).

reactant | lithium aluminum hydride | 267 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(quinolin4-yl)piperidine-4-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)C1CCN(CC1)C1=CC=NC2=CC=CC=C12 | C17H20N2O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-Hydroxymethyl-1-(quinolin-4-yl)piperidine | 750 mg | OCC1CCN(CC1)C1=CC=NC2=CC=CC=C12 | C15H18N2O
